US05006522
5,10-Dihydro-5-[6-(1-piperidinyl)-hexyl]-11H-dibenzo[b,e][1,4]diazepin-11-one
Prepared analogously to Example 6 from 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one, n-butyl-lithium and 1-bromo-6-(1-piperidinyl)-hexane in a yield of 46% of theory. Colourless crystals, m.p. 124°-125° C. (from acetonitrile using activated charcoal).

reactant | 5,10-dihydro-11H-dibenzo[b,e][1,4]diazepin-11-one | C1=CC=CC=2NC3=C(NC(C21)=O)C=CC=C3 | C13H10N2O
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 1-bromo-6-(1-piperidinyl)-hexane | BrCCCCCCN1CCCCC1 | C11H22BrN
solvent | acetonitrile | C(C)#N | C2H3N
product | 5,10-Dihydro-5-[6-(1-piperidinyl)-hexyl]-11H-dibenzo[b,e][1,4]diazepin-11-one | yield of 46% | N1(CCCCC1)CCCCCCN1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=C2 | C24H31N3O
